US07994205B2
N-methyl-1-[4-phenyl-5-(phenylsulfonyl)-1,3-thiazol-2-yl]methanamine Hydrochloride
To a solution of tert-butyl methyl{[4-phenyl-5-(phenylsulfonyl)-1,3-thiazol-2-yl]methyl}carbamate (0.18 g) in ethanol (2 mL) was added 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) at room temperature, and the mixture was stirred for 14 hr. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from ethanol to give the title compound as white crystals (yield 80 mg, 53%).

reactant | tert-butyl methyl{[4-phenyl-5-(phenylsulfonyl)-1,3-thiazol-2-yl]methyl}carbamate | 0.18 g | CN(C(OC(C)(C)C)=O)CC=1SC(=C(N1)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C22H24N2O4S2
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-methyl-1-[4-phenyl-5-(phenylsulfonyl)-1,3-thiazol-2-yl]methanamine Hydrochloride | yield 80 mg, 53% | Cl.CNCC=1SC(=C(N1)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C17H16N2O2S2.ClH/c1-18-12-15-19-16(13-8-4-2-5-9-13)17(22-15)23(20,21)14-10-6-3-7-11-14;/h2-11,18H,12H2,1H3;1H
